US07932272B2
2-Methylamino-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
To a solution of 2-(ethoxymethyl-amino)-N-(5-phenoxy-thiophene-2-ylmethyl)-nicotinamide described in Preparation Example A+-6 (148 mg, 0.385 mmol) in dimethylsulfoxide (3 mL) was added sodium borohydride (44 mg, 1.15 mmol), and the solution was stirred for 30 minutes at 100° C., followed by stirring for 20 minutes at 110° C. Furthermore, sodium borohydride (35 mg, 0.925 mmol) was added thereto, followed by stirring for 20 minutes at 110° C. Water was added to the reaction mixture, which was then extracted with ethyl acetate, the organic layer was sequentially washed with water and brine, dried over anhydrous sodium sulfate, and then, concentrated in vacuo. The obtained residue was purified by silica gel chromatography (hexane-ethyl acetate), and the title compound (86 mg, 0.26 mmol, 67%) was obtained.

reactant | 2-(ethoxymethyl-amino)-N-(5-phenoxy-thiophene-2-ylmethyl)-nicotinamide | C(C)OCNC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC=N1 | C20H21N3O3S
reactant | sodium borohydride | 1.15 mmol, 44 mg | [BH4-].[Na+]
reactant | sodium borohydride | 0.925 mmol, 35 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 2-Methylamino-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.26 mmol, 86 mg, 67% | CNC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC=N1 | C18H17N3O2S
